US04814329
2-(2-(1-piperidyl)-ethylthio)-5-methyl-benzimidazoledihydrochloride
4.87 g (30 mmoles) of 5-methyl-benzimidazoline-2-thione, 6.54 g (35.5 mmoles) of 2-(1-piperidyl)-ethylchloride hydrochloride, 2.78 g (33 mmoles) of sodium hydrogencarbonate are dissolvent in 60 ml of methanol and the mixture is refluxed for 6 hours. The inorganic salt is filtered off, the filtrate is evaporated, and the title compound is precipitated by adding ethyl acetate and hydrochloric ethyl acetate. Weight: 9.32 g (90%). Melting point: 229°-230° C., which does not change after recrystallization from ethanol.

reactant | 5-methyl-benzimidazoline-2-thione | 30 mmoles, 4.87 g | CC1=CC2=C(NC(N2)=S)C=C1 | C8H8N2S
reactant | 2-(1-piperidyl)-ethylchloride hydrochloride | 35.5 mmoles, 6.54 g | Cl.N1(CCCCC1)CCCl
reactant | sodium hydrogencarbonate | 33 mmoles, 2.78 g | C(O)([O-])=O.[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 2-(2-(1-piperidyl)-ethylthio)-5-methyl-benzimidazoledihydrochloride | Cl.Cl.N1(CCCCC1)CCSC=1NC2=C(N1)C=CC(=C2)C | InChI=1S/C15H21N3S.2ClH/c1-12-5-6-13-14(11-12)17-15(16-13)19-10-9-18-7-3-2-4-8-18;;/h5-6,11H,2-4,7-10H2,1H3,(H,16,17);2*1H
